data/mechanisms/records/IMS9-EQ9.16.json
{"mechanism_id": "IMS9-EQ9.16", "species": [{"species_id": "p_tolyl_1_propane_molecular_ion", "mapped_smiles": "[C+:1]1([CH2:8][CH2:9][CH2:10][1H:11])[CH:2][CH:3]=[C:4]([CH3:7])[CH:5]=[CH:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methylene_cyclohexadiene_radical_cation_106", "mapped_smiles": "[CH2:8][C+:1]1[CH:2]([1H:11])[CH:3]=[C:4]([CH3:7])[CH:5]=[CH:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylene_neutral_loss", "mapped_smiles": "[CH2:9]=[CH2:10]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["p_tolyl_1_propane_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["methylene_cyclohexadiene_radical_cation_106", "ethylene_neutral_loss"]}], "steps": [{"step_id": "step_ortho_h_rearrangement_with_beta_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 11]}, "target": {"type": "bond", "atom_maps": [2, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 11]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [9, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rh_beta_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ortho_h_rearrangement_with_beta_cleavage", "support_type": "textbook_proposed", "locator": {"page": 240, "equation": "9.16", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (alkylbenzenes; gamma-H rearrangement to the aromatic ortho carbon, tolyl-1-propane)"}, "confidence": 0.85, "curator_note": "Concerted gamma-hydrogen rearrangement to the aromatic ORTHO carbon with beta (C-alpha/C-beta) cleavage, expelling ethylene ('- C2H4' is printed over the single reaction arrow) and giving the OE+. rearrangement ion C8H10+., m/z 106, which the page labels. SUBSTRATE AS DRAWN: a propyl chain (three chain carbons; the migrating H is printed on the terminal gamma carbon, map 10) on a ring whose CH3 sits PARA to the chain, i.e. p-tolyl-1-propane, M+. m/z 134; measured on the scan the hexagon has vertical left and right edges with the chain on the lower-left vertex (map 1) and the CH3 on the upper-right vertex (map 4), which is the 1,4 relationship. ARROWS: Book draws 2 arc(s); moves <2> and <4> are drawn, moves <1>, <3> and <5> are implicit and required for electron balance (not drawn on the page). Drawn arc 1 (= move <2>) starts on the gamma C-H sigma bond (map10-map11) and points at the printed radical dot on the ortho ring carbon (map 2), i.e. into the forming map2-map11 bond; drawn arc 2 (= move <4>) starts on the C-alpha/C-beta sigma bond (map8-map9) and points at the map9-map10 bond, i.e. into the forming C-beta=C-gamma pi bond. The three arcs the book leaves implicit are: <1> the ortho radical's own odd electron completing the new C-H bond (the book simply drops the dot and prints two H's on that carbon in the product); <3> the second electron of the homolysed gamma C-H bond completing the C-beta=C-gamma pi bond of the expelled ethylene; <5> the implicit homolysis hook that puts the second electron of the broken map8-map9 bond on C-alpha, which the book prints only as the dot of 'H2C.' in the m/z 106 product. LOCALIZATION (convention B) / RESONANCE (convention C): the molecular ion is drawn LOCALIZED - '+' printed at the ipso ring carbon (map 1), '.' printed at the ortho ring carbon (map 2), ring Kekule double bonds drawn map3=map4 and map5=map6 - and this record uses exactly that canonical form of the delocalized arene radical cation; RDKit keeps both ions non-aromatic (0 aromatic bonds), so every bond-order change is integer and no delocalisation caveat is needed. The m/z 106 product is likewise encoded as the printed form: sp3 CH2 in the ring (map 2, carrying the transferred [1H:11]), '+' still on map 1 and the odd electron on the exocyclic H2C. (map 8). INTENSITY: no percentage is printed on p.240, so relative_intensity is omitted (convention F). The facing page (p.239) states in words that the C8H10+. rearrangement ion is 5.5% (m-tolyl-1-propane) and 0.9% (p-tolyl-1-propane) OF THE BENZYLIC-CLEAVAGE ION C8H9+ (Equation 9.17) - a fragment/fragment ratio, not a base-peak intensity, and not printed on this page. RELATED SCHEME: eq 9.15 (p.239) draws the identical reaction STEPWISE for a generic R (rH to a distonic intermediate, then alpha), whereas eq 9.16 prints it as one arrow, so it is encoded here as one step with no intermediate."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 134.109, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_106", "species_id": "methylene_cyclohexadiene_radical_cation_106", "step_id": "step_ortho_h_rearrangement_with_beta_cleavage", "observed_mz": 106.0777, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
